US07465815B2
1-Bromo-2-(2-chloroethoxy)-2,4-dimethylbenzene
A mixed solution of 2-bromo-3,5-dimethylphenol obtained in Reference Example 149 (16.3 g, 74.6 mmol) and benzyl-tri-n-butylammonium chloride (23.3 g, 7.46 mmol) in 1,2-dichloroethane (150 mL)-a 8 N aqueous sodium hydroxide solution (26 mL)-water (110 mL), was heated under reflux for 5 hours. Water was added to the reaction solution, which was extracted with ethyl acetate. The combined organic layer was washed with water, a saturated sodium hydrogen carbonate solution, and a saturated brine, dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 16.6 g (yield 90%) of the title compound. Oily matter.

reactant | 2-bromo-3,5-dimethylphenol | BrC1=C(C=C(C=C1C)C)O | C8H9BrO
reactant | sodium hydroxide | 8 N, 26 mL | [OH-].[Na+]
reactant | water | 110 mL | O | H2O
reactant | 1,2-dichloroethane | 150 mL | ClCCCl | C2H4Cl2
catalyst | benzyl-tri-n-butylammonium chloride | 7.46 mmol, 23.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
product | 1-Bromo-2-(2-chloroethoxy)-2,4-dimethylbenzene | 16.6 g, yield 90% | BrC1C(C=C(C=C1)C)(C)OCCCl | C10H14BrClO
